US09127007B2
(d). 5,6-dimethoxynicotinaldehyde
To a solution of 5-Bromo-2,3-dimethoxy-pyridine (43 g) in THF (500 ml) at −78° C. was added n-butyllithium (191 mmol). After stirring for 30 minutes at −78° C. DMF (28.8 g) was added dropwise and the reaction mixture was stirred at −78° C. for 2 hours. The reaction mixture was quenched with NH4Cl (saturated in water, 500 ml). The aqueous layer was extracted with ethyl acetate, the organic phases were washed with brine, dried over Na2SO4, filtered and concentrated. The crude product was purified by chromatography on silica eluting with heptane with increasing amounts of ethyl acetate.

reactant | 5-Bromo-2,3-dimethoxy-pyridine | 43 g | BrC=1C=C(C(=NC1)OC)OC | C7H8BrNO2
reactant | n-butyllithium | 191 mmol | C(CCC)[Li]
reactant | DMF | 28.8 g | CN(C)C=O | C3H7NO
solvent | THF | 500 ml | C1CCOC1 | C4H8O
product | 5,6-dimethoxynicotinaldehyde | COC=1C(=NC=C(C=O)C1)OC | C8H9NO3
